US09303033B2
Synthesis 5-((7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione
To the reaction flask, 7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (3.7 g, 9.3 mmol) was added to ethanol (31 mL) along with hydantoin (933 mg, 9.3 mmol) and piperidine (920 μL, 9.3 mmol). The reaction was heated at 80° C. for 3 days then cooled to room temperature and diluted with water. The solid was collected by filtration, washed with water, 50% ethanol/water, and then 100% ethanol. The material was dried under vacuum overnight. The product, 5-((7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione, was recovered as a yellow solid in 92% yield. LCMS (M+1=477)

reactant | 7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 9.3 mmol, 3.7 g | C(C1=CC=CC=C1)SC1=CC(=NC=2N1N=CC2C=O)NC2=CC(=CC=C2)Cl | C20H15ClN4OS
reactant | ethanol | 31 mL | C(C)O | C2H6O
reactant | hydantoin | 9.3 mmol, 933 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 9.3 mmol, 920 μL | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 5-((7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 92% yield | C(C1=CC=CC=C1)SC1=CC(=NC=2N1N=CC2C=C2C(NC(N2)=O)=O)NC2=CC(=CC=C2)Cl | C23H17ClN6O2S
